US08242280B2
In a microwave vial O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (53.9 mg, 0.14 mmol) was added to a solution of 5-hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxylethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid (71 mg, 0.14 mmol), dimethyl amine (2 M in THF, 65 μl, 0.14 mmol) and di-iso-propyl ethyl amine (75 μl, 0.43 mmol) in tetrahydrofuran (1 ml). The vial was sealed and the solution irradiated to 70° C. for 10 min in a microwave reactor. The solvent was then removed under reduced pressure and 1 ml of trifluoroacetic acid was added this reaction was stirred for 16 hours and the solvent evaporated under reduced pressure, and purified by preparative mass-triggered reverse-phase HPLC to afford 2-hydroxy-2-{6-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-N,N-dimethyl-acetamide (13.6 mg, 24% yield). 1H NMR (500 MHz, Dimethyl sulfoxide-d6) δ 2.85 (s, 3H) 3.30 (s, 3H); 3.85 (s, 3H)); 5.63 (m, 2H); 7.10 (t, J=8 Hz 1H); 7.4 (d, J=8 Hz 1H); 7.44 (m, 2H); 7.63 (d, J=8 Hz 1H); 7.87 (m, 2H) 8.88 (s, 1H); 9.22 (s, 1H); 13.84 (s, br, 1H) MS: m/z 404.3 (M+H+).

reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.14 mmol, 53.9 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 5-hydroxy-{6-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxylethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-acetic acid | 0.14 mmol, 71 mg | OC=1C=CC(=NC1C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)CCOCC[Si](C)(C)C)CC(=O)O | C27H32N4O5Si
reactant | dimethyl amine | 0.14 mmol, 2 M, 65 μl | CNC | C2H7N
reactant | di-iso-propyl ethyl amine | 0.43 mmol, 75 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-2-{6-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-pyridin-2-yl}-N,N-dimethyl-acetamide | 13.6 mg, 24% yield | OC(C(=O)N(C)C)C1=NC(=CC=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C22H21N5O3
